US05063228
4-[2-[Bis(4-fluorophenyl)methyl-1-piperidinyl]ethyl]-3,4-dihydro-2-methylpyrimido[1,6-a]benzimidazol-1(2H)-one.
To 4.0 g (0.015 mol) of 4-(2-chloroethyl)-3,4-dihydro-2-methylpyrimido[1,6-a]benzimidazol-1(2H)-one in 20 mL of toluene was added 5.0 g (0.0175 mol) of 4-[bis(4-fluorophenyl)methyl]piperidine and 5.0 g (0.05 mol) of triethylamine and the reaction mixture heated to reflux for 24 hr. The reaction mixture was washed with 3×50 mL of 1N NaOH, dried over Na2SO4, filtered, and concentrated by rotary evaporation. The residue was subjected to preparative HPLC using ethanol as the eluent and silica gel as the stationary phase. Like fractions were combined and concentrated by rotary evaporation to give 3.7 g (49%) of an analytically pure oil.

reactant | 4-(2-chloroethyl)-3,4-dihydro-2-methylpyrimido[1,6-a]benzimidazol-1(2H)-one | 0.015 mol, 4.0 g | ClCCC1CN(C(N2C1=NC1=C2C=CC=C1)=O)C | C13H14ClN3O
reactant | 4-[bis(4-fluorophenyl)methyl]piperidine | 0.0175 mol, 5.0 g | FC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2N
reactant | triethylamine | 0.05 mol, 5.0 g | C(C)N(CC)CC | C6H15N
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[2-[Bis(4-fluorophenyl)methyl-1-piperidinyl]ethyl]-3,4-dihydro-2-methylpyrimido[1,6-a]benzimidazol-1(2H)-one | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)C1N(CCCC1)CCC1CN(C(N2C1=NC1=C2C=CC=C1)=O)C | C31H32F2N4O
